US05807860
Carbon tetrabromide (44.3 g, 0.134 mol) was added portionwise to a solution of triphenylphosphine (70.1 g, 0.267 mol) in methylene chloride (200 ml) under ice cooling. A solution of 5-bromo-2,3-methylenedioxybenzaldehyde (27.65 g, 0.121 mol) in methylene chloride (100 ml) was then added dropwise to the mixture over 20 minutes. The reaction mixture was stirred at room temperature for 2 hours, washed with water and with saturated aqueous sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was added with ethyl acetate (200 ml), and the mixture was heated to 60° C. and then added with hexane (50 ml). The mixture was cooled to room temperature, and the deposited triphenylphosphine oxide was removed by filtration and the filtrate was concentrated. Triphenylphosphine oxide was removed again in a similar manner by using 100 ml of ethyl acetate and 100 ml of hexane, and the filtrate was concentrated. The residue was purified by silica gel chromatography (Wako Gell C-300: 200 g, eluent: hexane/ethyl acetate=1/10) to give β,β-dibromo-5-bromo-2,3-methylenedioxystyrene (42.36 g).

reactant | Carbon tetrabromide | 0.134 mol, 44.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.267 mol, 70.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-bromo-2,3-methylenedioxybenzaldehyde | 0.121 mol, 27.65 g | BrC=1C=C2C(=C(C=O)C1)OCO2 | C8H5BrO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | β,β-dibromo-5-bromo-2,3-methylenedioxystyrene | 42.36 g | BrC(=CC1=C2C(=CC(=C1)Br)OCO2)Br | C9H5Br3O2
